US07696240B2
1-(7-Fluoro-naphthalen-1-ylmethyl)-3-methylaminomethyl-1H-indole-2-carboxylic acid ethyl ester; salt with HCl was reacted with methyl chloroformate as described in Example 77.1. to give 1-(7-fluoro-naphthalen-1-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid ethyl ester which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give 1-(7-fluoro-naphthalen-1-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid as a white solid. MS: 419.5 ([M−H]−).

reactant | 1-(7-Fluoro-naphthalen-1-ylmethyl)-3-methylaminomethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CNC)CC1=CC=CC2=CC=C(C=C12)F | C24H23FN2O2
reactant | HCl | Cl | ClH
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 1-(7-fluoro-naphthalen-1-ylmethyl)-3-[(methoxycarbonyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CN(C)C(=O)OC)CC1=CC=CC2=CC=C(C=C12)F | C26H25FN2O4
